US08067408B2
Methyl 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-5-methylbenzoate
3-Methyl-5-[(methyloxy)carbonyl]benzoic acid (2.91 g, 15.00 mmol) was partially dissolved in dichloromethane (DCM) (500 mL) with stirring under argon at room temperature. HBTU (5.69 g, 15.00 mmol) was added followed by 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride (5.10 g, 15 mmol), and then TEA (4.18 mL, 30.0 mmol). The mixture was stirred under argon overnight. The solvent was concentrated and the residue partitioned between EtOAc (300 mL) and water (100 mL). The organic phase was washed with water (3×100 mL), brine, dried over anhydrous sodium sulfate, filtered and concentrated to give the crude product. This was purified by CombiFlash on a 120 g silica column eluted with 35-100% EtOAc in hexane. The purified product was taken up in 300 mL of EtOAc, and washed with 50 mL of 1N NaOH, and then with water (3×100 mL), and 50 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated to give the title compound as a white solid. LC-MS m/z 480.0 (M+H)+, 0.81 min (ret time); mp 89-93° C.; analytical HPLC shows 95.4% purity, (ret time 12.251 min).

reactant | 3-Methyl-5-[(methyloxy)carbonyl]benzoic acid | 15.00 mmol, 2.91 g | CC=1C=C(C(=O)O)C=C(C1)C(=O)OC | C10H10O4
reactant | HBTU | 15.00 mmol, 5.69 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine hydrochloride | 15 mmol, 5.10 g | Cl.NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | Methyl 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-5-methylbenzoate | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)OC)C=C(C2)C)CC | C26H33N5O4
